US08865713B2
Step D: 1-[5-benzylsulfanyl-6-chloro-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester.
To a solution of 1-[6-chloro-5-mercapto-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester (0.300 g, 0.730 mmol), benzyl bromide (0.130 mL, 1.10 mmol) and DMF (20 mL) was added potassium carbonate (0.151 g, 1.10 mmol). The reaction mixture was stirred for 15 min at 23° C. and poured onto water (40 mL). The product was extracted with EtOAc (3×50 mL). The organic layers were combined, dried, filtered, and concentrated under reduced pressure. The residue was purified (FCC) (2-50% EtOAc/hexanes) to yield the titled compound (0.330 g, 90%). MS (ESI/CI): mass calcd. for C24H25ClN4O4S, 500.1; m/z found, 501.1 [M+H]+.

reactant | 1-[6-chloro-5-mercapto-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 0.730 mmol, 0.300 g | C(C)OC(=O)C=1C=NN(C1)C1=NC2=C(N1COCCOC)C=C(C(=C2)S)Cl | C17H19ClN4O4S
reactant | benzyl bromide | 1.10 mmol, 0.130 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 1.10 mmol, 0.151 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-[5-benzylsulfanyl-6-chloro-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 0.330 g, 90% | C(C)OC(=O)C=1C=NN(C1)C1=NC2=C(N1COCCOC)C=C(C(=C2)SCC2=CC=CC=C2)Cl | C24H25ClN4O4S
